US07423159B2
A mixture of N-[4-(ethoxycarbonylmethyl)phenyl]-3-(1,5-diphenyl-1H-pyrazol-4-yl)propionamide (0.76 g), a 1N aqueous sodium hydroxide solution (5 ml) and ethanol (5 ml) was stirred at 50° C. for 3 hrs. The reaction mixture was poured into a 1N aqueous hydrochloric acid solution and the precipitated crystals were collected by filtration, washed with water and dried to give (4-{[3-(1,5-diphenyl-1H-pyrazol-4-yl)propanoyl]amino}phenyl)acetic acid.

reactant | N-[4-(ethoxycarbonylmethyl)phenyl]-3-(1,5-diphenyl-1H-pyrazol-4-yl)propionamide | 0.76 g | C(C)OC(=O)CC1=CC=C(C=C1)NC(CCC=1C=NN(C1C1=CC=CC=C1)C1=CC=CC=C1)=O | C28H27N3O3
reactant | sodium hydroxide | 1N, 5 ml | [OH-].[Na+]
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | ethanol | 5 ml | C(C)O | C2H6O
product | (4-{[3-(1,5-diphenyl-1H-pyrazol-4-yl)propanoyl]amino}phenyl)acetic acid | yield: 94% | C1(=CC=CC=C1)N1N=CC(=C1C1=CC=CC=C1)CCC(=O)NC1=CC=C(C=C1)CC(=O)O | C26H23N3O3
